US08957070B2
N-(Methoxymethyl)-N-[1-(methoxymethyl)-2-(1H-1,2,4-triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of N-[(1E)-(dimethylamino)methylene]-1-(methoxymethyl)-7-[(methoxymethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.06 g), hydrazine monohydrate (0.22 mL) and acetic acid (10 mL) was stirred at 80° C. for 1 hr. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried to give the title compound (0.99 g, quantitative) as colorless crystals. melting point 97-99° C.

reactant | N-[(1E)-(dimethylamino)methylene]-1-(methoxymethyl)-7-[(methoxymethyl)(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.06 g | CN(C)\C=N\C(=O)C=1N(C2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)COC)COC | C20H24N4O5S2
reactant | hydrazine monohydrate | 0.22 mL | O.NN
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | N-(Methoxymethyl)-N-[1-(methoxymethyl)-2-(1H-1,2,4-triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.99 g | COCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(N(C12)COC)C1=NNC=N1 | C18H19N5O4S2
